US09024032B2
4-Nitro-1H-benzimidazole was hydrogenated (48 psi) with 1 g 10% Pd/C in HOAc (100 mL) for 3 h. The crude mixture was filtered through a pad of Celite, washing with MeOH, and concentrated. The residue was taken up in 2 M aq HCl and applied to a Phenomenex Strata-X—C ion exchange column (5 g). The column was washed with H2O and MeOH. The washings contained additional material and were applied to another Strata X—C ion exchange column (5 g). The columns were washed with H2O and MeOH. Each of the columns containing product were washed separately with 10% concentrated NH4OH in MeOH and the product collected in fractions. The collected fractions were concentrated to give 1H-Benzimidazol-4-amine as a deep red solid. 1H NMR (500 MHz, d6-DMSO) δ 12.10 (bs, 1 H), 7.98 (s, 1 H), 6.87 (t, J=7.81 Hz, 1 H), 6.72 (d, J=7.82 Hz, 1 H), 6.34 (d, J=7.57 Hz, 1 H), 5.16 (bs, 2 H).

reactant | 4-Nitro-1H-benzimidazole | [N+](=O)([O-])C1=CC=CC=2NC=NC21 | C7H5N3O2
solvent | HOAc | 100 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 1H-Benzimidazol-4-amine | N1C=NC2=C1C=CC=C2N | C7H7N3
